US05187188
Ethyl malonyl chloride (25.68 g, 0.17 mol) was added dropwise to a stirred solution of benzoin (32.90 g, 0.155 mol), pyridine (13.53 g, 0.17 mol) and 4-dimethyl-aminopyridine (catalytic quantity) in CH2Cl2 (300 mL) maintained at about 10° C. with an ice-water bath. The mixture was stirred for about 30 minutes at about 10° C. and about 2 hours at room temperature before being concentrated in vacuo. Glacial acetic acid (600 mL) and ammonium acetate (59.68 g, 0.775 mol) were added to the residue and the mixture heated to reflux. After about 2 hours, the solution was diluted with CH2Cl2, washed with water (3×) and saturated sodium chloride solution and dried over sodium sulfate. Evaporation of the solvent left an oil which was chromatographed on a column of silica gel using a mixture of hexanes and ethyl acetate (17:3) as eluent to give ethyl 4,5-diphenyl-2-oxazoleacetate (29.26 g, 61%). Recrystallization from a mixture of hexanes and CH2Cl2 (8:1) gave pure material, mp 71°-72° C. IR (KBr) 1740 0(CO2Et) cm-1 ; 1H NMR (CDCl3) δ1.26 (3H, t, J=7Hz, CO2CH2CH3), 3.91 (2H, s, CH2CO2Et), 4.22 (2H, q, J=7Hz, OCH2), 7.25 to 7.45 (6H, m, aromatic H), 7.50 to 7.75 (4H, m, aromatic H); MS m/z 308 (MH+).

reactant | Ethyl malonyl chloride | 0.17 mol, 25.68 g | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | benzoin | 0.155 mol, 32.90 g | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C14H12O2
reactant | pyridine | 0.17 mol, 13.53 g | N1=CC=CC=C1 | C5H5N
reactant | ammonium acetate | 0.775 mol, 59.68 g | C(C)(=O)[O-].[NH4+]
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 600 mL | C(C)(=O)O | C2H4O2
product | ethyl 4,5-diphenyl-2-oxazoleacetate | 29.26 g, 61% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CC(=O)OCC | C19H17NO3
